US04942259
The general cracking process in the present invention was carried out to attempt to crack a tertiary amide. N-(methyl)-N-(1-ethoxyethyl)acetamide (NEEA) was prepared, analyzed by NMR, and its purity estimated to be 42%. The other primary component was N-methyl acetamide. An ethanolic solution containing MEEA was prepared by mixing 25.01 g of the MEEA acetamide and 45.0 g ethanol. The solution was deoxygenated by purging the headspace of a glass bottle with N2, shaking the capped bottle well and repeating this procedure. 2.05 cc of Harshaw MgO catalyst was loaded into a 9/16" O.D. 316 ss tube with 10.0 g of 10-16 mesh quartz chips pre-bed vaporizer and 7.4 g as post-bed support material. The tube was assembled into a down-flow reactor and heated to 275° C. under 900 sccm He. The MEEA solution was pumped to the heated reactor at a flow rate of 19.3 ml/hr and total pressure of 850 torr. The reactor effluent was cooled and samples were collected over a four hour period. 1.00 g of the effluent was added to 9.00 g methanol and 0.15 g N-methyl pyrrolidone for quantitative analysis by gas chromatography. The results indicated that there was no MEEA conversion, clearly demonstrating that the process of the present invention is not effective for tertiary amides.

reactant | N-methyl acetamide | CNC(C)=O | C3H7NO
reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | ethanol | 45.0 g | C(C)O | C2H6O
product | N-(methyl)-N-(1-ethoxyethyl)acetamide | CN(C(C)=O)C(C)OCC | C7H15NO2
